Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.15762019812
[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-5.265056008459999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.68317073409
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.19973237985
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7],5.939239490419999
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:8]1([H:9])[H:10],-2.65444708632
[H:13].[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.962808809049999
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[C:3]([H:4])#[C:5][C:6]([H:7])([O:8][H:9])[O:10][H:11].[H:1][C:2],3.33032061986
[H:1][C:2]=[C:3]([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4]>>[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.1400948374200002
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][C:8]([C:5]([C:3]#[C:2][C:10]([H:11])([H:12])[H:13])([H:6])[H:7])=[C:9][H:4],1.45233999217
[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-6.92222579768
[C:1][C:2]#[C:4][C:5]([H:6])([H:9])[H:10].[C:3]#[C:7][H:8]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.20614821875
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]#[C:12][H:13],3.84777221174
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3],3.95955780156
[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2][O:3][C:4](=[C:5])[C:7]([H:8])([H:9])[H:10],4.41352045916
[C:10]=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-7.131798284299999
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.41275556945
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.170065158530003
[H:1][O:2][C:3]([H:4])=[C:5]=[C:10]([C:7]([O:6])([H:8])[H:9])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[O:6][C:7]([H:8])([H:9])[C:10]1[H:11],-1.05299743165
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-4.35588651059
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.86426277952
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.85594687398
[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11],-4.30373025957
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3](\[H:4])(=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.86933596046
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][H:9],2.1789681056
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2],6.04659544987
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8],0.67207261634
